US07893267B2
3.9 g (17.6 mmol) of the above 5-methyl-3-nitroisatoic anhydride in ethyl acetate (50 mL) was treated with NaOH at r.t. for 2 h. The mixture was neutralized with dilute HCl solution and the resulting solid was filtered and washed with water and dried to give 2.5 g (72%) of 2-amino-5-methyl-3-nitrobenzoic acid.

reactant | 5-methyl-3-nitroisatoic anhydride | 17.6 mmol, 3.9 g | CC1=CC(=C2C(C(=O)OC(N2)=O)=C1)[N+](=O)[O-] | C9H6N2O5
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-methyl-3-nitrobenzoic acid | 2.5 g, 72% | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C | C8H8N2O4
